US09238639B2
C) 2-Fluoro-3-methoxy-5-methylbenzenethiol
To a mixture of 2-fluoro-1-methoxy-5-methyl-3-(methylsulfinyl)benzene (486 mg) and CH3CN (20 mL) was added TFAA (1.02 mL) at 0° C. The mixture was stirred at 0° C. for 1 h, and concentrated in vacuo. The residue was dissolved in a mixture of MeOH (3.5 mL) and TEA (3.5 mL) at 0° C. The solution was stirred at room temperature for 1 h, and concentrated in vacuo. The residue was diluted with saturated aqueous NH4Cl, and the mixture was extracted with EtOAc. The organic layer was extracted with 1N NaOH. The aqueous layer was acidified with 1N HCl and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give the title compound (214 mg).

reactant | 2-fluoro-1-methoxy-5-methyl-3-(methylsulfinyl)benzene | 486 mg | FC1=C(C=C(C=C1S(=O)C)C)OC | C9H11FO2S
reactant | TFAA | 1.02 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 2-Fluoro-3-methoxy-5-methylbenzenethiol | 214 mg | FC1=C(C=C(C=C1OC)C)S | C8H9FOS
